US05266570
N-(1-[9,10-Dihydro-9,10-methanoanthracen-9-ylmethyl]-4-piperidyl)-2,2-dimethylpropionamide
Using a procedure similar to that described in Example 27 except starting with 4-amino-1-[9,10-dihydro-9,10-methanoanthracen-9-ylmethyl]piperidine and pivaloyl chloride, the title compound was obtained as a white solid (87%), mp 181.5°-2.5° C.; MS(CI): 389 (M+H); NMR (300 MHz,DMSO-d6): 1.05(s, 9H), 1.37-1.66(m, 4H), 2.24(m, 2H), 2.45(s, 2H), 2.97(m, 2H), 3.31(s, 2H), 3.56(m, 1H), 4.30(s, 1H), 6.91(m, 4H), 7.06(d, 1H, J=8.1 Hz), 7.17-7.27(m, 4H).

reactant | 4-amino-1-[9,10-dihydro-9,10-methanoanthracen-9-ylmethyl]piperidine | NC1CCN(CC1)CC12C3=CC=CC=C3C(C=3C=CC=CC13)C2 | C21H24N2
reactant | pivaloyl chloride | C(C(C)(C)C)(=O)Cl | C5H9ClO
product | N-(1-[9,10-Dihydro-9,10-methanoanthracen-9-ylmethyl]-4-piperidyl)-2,2-dimethylpropionamide | C1=CC=CC=2C3C4=CC=CC=C4C(C12)(C3)CN3CCC(CC3)NC(C(C)(C)C)=O | C26H32N2O
